US04450164
8-Benzyloxy-2-hydroxymethyl-3-methylimidazo[1,2-a]pyridine
To an ice-cooled suspension of LiAlH4 (1.03 g) in tetrahydrofuran (THF) (200 ml) there was added 8-benzyloxy-2-methoxycarbonyl-3-methyl-imidazo[1,2-a]pyridine (13.3 g) obtained according to Example VI in several portions over 20 minutes. The temperature was maintained below +8° C. After all the substance hadbeen added, stirring with cooling was continued for 30 min. and thereafter the mixture was stirred at room temperature for another hour. The reactionmixture was cooled to 3° C. and to the stirred mixture there was first added 1.09 ml of water, then 1.63 ml of 10% aqueous NaOH and finally3.27 ml water. The resulting mixture was stirred for 5 min. on the ice bathand 5 min. at room temperature and then filtered. The solid was washed with2×100 ml of hot THF and the wash fluid was added to the original filtrate. The solution was stripped to yield a brown powder which was triturated for 1 hr. in 150 ml CHCl3. After filtration and washing a slightly impure product was obtained (m.p. 172°- 175° C.).

reactant | LiAlH4 | 1.03 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 8-benzyloxy-2-methoxycarbonyl-3-methyl-imidazo[1,2-a]pyridine | 13.3 g | C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C(=C(N2)C(=O)OC)C | C17H16N2O3
reactant | water | 1.09 ml | O | H2O
reactant | NaOH | 1.63 ml | [OH-].[Na+]
reactant | water | 27 ml | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 8-Benzyloxy-2-hydroxymethyl-3-methylimidazo[1,2-a]pyridine | C(C1=CC=CC=C1)OC=1C=2N(C=CC1)C(=C(N2)CO)C | C16H16N2O2
